US04775675
3-Acetyl-5,5-dimethyl-2(S)-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid
11.2 ml of acetic anhydride are portion-wise added to a suspension containing 5.1 g (20 mmoles) of 5,5-dimethyl-2-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid in 11.2 ml of hot water. The mixture is heated at 100° C. for 5 minutes, then cooled down. The crystals are filtered out to give the title compound in a yield of 5.83 g (98%) which is recrystallized from the mixture of ethanol and ether, m.p.: 193.5° C., [α]D22 =-96.8° (c=0.62, methanol).

reactant | acetic anhydride | 11.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5,5-dimethyl-2-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid | 20 mmoles, 5.1 g | CC1([C@@H](NC(S1)C1=CC=C(C=C1)F)C(=O)O)C | C12H14FNO2S
solvent | water | 11.2 ml | O | H2O
product | 3-Acetyl-5,5-dimethyl-2(S)-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=C(C=C1)F | C14H16FNO3S
